US07414116B2
3-([1,3]Dioxolan-2-ylmethoxy)-benzoic acid ethyl ester
2-Bromomethyl-1,3-dioxolane (8.3 ml, 80 mmol), ethyl-3-hydroxy-benzoate (3.32 g, 20 mmol), potassium carbonate (5.53 g, 40 mmol) and sodium iodide (1.2 g, 8 mmol) were heated at 120° C. in DMF (8 ml) for 17 hrs. The reaction was cooled to room temperature and all the solvents were evaporated under reduced pressure. The residues were partitioned between DCM (250 ml) and water (250 ml). The DCM layer was separated and the aqueous layer was back-extracted with DCM (2×100 ml). All the DCM extracts were combined, dried over MgSO4 and evaporated under reduced pressure. The residue was purified by column chromatography (4×25 cm). The product was eluted with 20% petroleum ether (60-80° C.) in DCM and the title compound was obtained as a slightly brown oil (4.63 g, 91.8%). APCI-MS, m/z 252.95 (M+1).

reactant | 2-Bromomethyl-1,3-dioxolane | 80 mmol, 8.3 ml | BrCC1OCCO1 | C4H7BrO2
reactant | ethyl-3-hydroxy-benzoate | 20 mmol, 3.32 g | C(C)OC(C1=CC(=CC=C1)O)=O | C9H10O3
reactant | potassium carbonate | 40 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 8 mmol, 1.2 g | [I-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-([1,3]Dioxolan-2-ylmethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)OCC1OCCO1)=O | C13H16O5
